US07060827B2
In like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine was reacted with 1-(4-hydroxyphenyl)ethylamine to provide (±)-2-chloro-5-fluoro-N4-[1-(4-hydroxyphenyl)ethyl]-4-pyrimidineamine. 1H NMR (CDCl3): δ 7.88 (d, 1H, J=2.3 Hz), 7.50–7.47 (dd, 2H, J=1.7 and 8.7 Hz), 7.26–7.23 (dd, J=8.7 and 1.7 Hz), 5.35–5.28 (m, 2H), 1.59 (d, 3H, J=7.0 Hz).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 1-(4-hydroxyphenyl)ethylamine | OC1=CC=C(C=C1)C(C)N | C8H11NO
product | (±)-2-chloro-5-fluoro-N4-[1-(4-hydroxyphenyl)ethyl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC(C)C1=CC=C(C=C1)O)F | C12H11ClFN3O
